US08258141B2
VA2: 3-((R)-3-Pyrrolidin-3-ylureido)-benzenesulfonamide
A solution of 3-[3-((R)-1-benzyl-pyrrolidin-3-yl)-ureido]-benzenesulfonamide (25 g, 0.067 mol) in ethanol (250 mL) is purged with nitrogen, and palladium hydroxide (2.5 g, 20% w/w) is added. The suspension is purged with hydrogen and stirred under a positive pressure of hydrogen for 24 hours. Filtration though Celite® (filter material) and removal of solvent under reduced pressure gives the product as a colourless waxy solid.

reactant | 3-[3-((R)-1-benzyl-pyrrolidin-3-yl)-ureido]-benzenesulfonamide | 0.067 mol, 25 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC(NC=1C=C(C=CC1)S(=O)(=O)N)=O | C18H22N4O3S
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 2.5 g | [OH-].[Pd+2].[OH-]
product | 3-((R)-3-Pyrrolidin-3-ylureido)-benzenesulfonamide | N1C[C@@H](CC1)NC(NC=1C=C(C=CC1)S(=O)(=O)N)=O | C11H16N4O3S
